US07144882B2
6-CHLORO-10-FLUORO-5,14-DIAZATETRACYCLO[10.3.1.02,11.04,9]HEXADECA-2(11),3,5,7,9-PENTAENE HYDROCHLORIDE
1-(6-Chloro-10-fluoro-5,14-diazatetracyclo[10.3.1.02,11.04,9]hexadeca-2(11),3,5,7,9-pentaen-10-yl)-2,2,2-trifluoro-ethanone 3-Fluoro-10-aza-tricyclo[6.3.1.02,7]-dodeca-2(7),3,5-triene was converted to 1-(3-Fluoro-10-aza-tricyclo[6.3.1.02,7]-dodeca-2(7),3,5-trien-10-yl)-2,2,2-trifluoro-ethanone by the methods described in Example 7A. This product was nitrated as described in Example 7B. The resulting mixture of nitrated products was reduced as described in Example 8, then converted to a chloroquinoline as described in Examples 54 and 55. These products were separated by column chromatography on silica gel to provide the title compound. (TLC: 50% ethyl acetate/hexanes, Rf 0.50).

reactant | 1-(3-Fluoro-10-aza-tricyclo[6.3.1.02,7]-dodeca-2(7),3,5-trien-10-yl)-2,2,2-trifluoro-ethanone | FC=1C=2C3CN(CC(C2C=CC1)C3)C(C(F)(F)F)=O | C13H11F4NO
reactant | chloroquinoline | ClC1=NC2=CC=CC=C2C=C1 | C9H6ClN
product | 6-CHLORO-10-FLUORO-5,14-DIAZATETRACYCLO[10.3.1.02,11.04,9]HEXADECA-2(11),3,5,7,9-PENTAENE HYDROCHLORIDE | Cl.ClC1=NC2=CC=3C4CNCC(C3C(=C2C=C1)F)C4 | InChI=1S/C14H12ClFN2.ClH/c15-12-2-1-9-11(18-12)4-10-7-3-8(6-17-5-7)13(10)14(9)16;/h1-2,4,7-8,17H,3,5-6H2;1H
